US07456169B2
5-Bromo-8-fluoro-isoquinoline
A mixture of 5-bromo-2-fluorobenzaldehyde (15 g, 74 mmol) and 2,2-dimethoxy-ethylamine (7.77 g, 74 mmol) in toluene (142 mL) was heated to reflux for 30 minutes using a Dean-Stark trap to remove water. The solution was then concentrated under vacuum to provide 5-bromo-2-fluorobenzylidene-2,2-dimethoxyethylamine. 5-Bromo-2-fluorobenzylidene-2,2-dimethoxyethylamine and cold concentrated sulfuric acid (28 mL) were added separately, dropwise, over a period of 20 minutes to concentrated sulfuric acid (83 mL) at 140° C. The mixture was stirred at 135° C. for 30 minutes, allowed to cool, and carefully poured onto ice. Filtered to remove solids and the mixture was washed with dichloromethane. The aqueous layer was made basic by cautious addition of 50% sodium hydroxide solution, and extracted with diethyl ether. Combined ether layers were dried (MgSO4), filtered and concentrated under vacuum to provide 310 mg (2%) of the desired product. MS (ESI) m/e 226 (M+H)+.

reactant | 5-Bromo-2-fluorobenzylidene-2,2-dimethoxyethylamine | BrC=1C=CC(=C(C=NCC(OC)OC)C1)F | C11H13BrFNO2
reactant | sulfuric acid | 28 mL | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 83 mL | S(O)(O)(=O)=O | H2O4S
product | 5-Bromo-8-fluoro-isoquinoline | 310 mg, 2% | BrC1=C2C=CN=CC2=C(C=C1)F | C9H5BrFN
